US05034417
A mixture of 2-mercaptopyridine (1.7 g), potassium t-butoxide (1.7 g) and N,N-dimethylformamide (3 ml) in toluene (15 ml) was stirred at room temperature for 30 minutes. To the mixture was added 4'-nitro-3'-chloroacetophenone (1.5 g) and the resulting mixture was stirred overnight. Water was added and the insoluble material was filtered, washed with toluene and dried to give crystals of 4'-nitro-3'-(2-pyridylthio)acetophenone (1.1 g).

reactant | 2-mercaptopyridine | 1.7 g | SC1=NC=CC=C1 | C5H5NS
reactant | potassium t-butoxide | 1.7 g | CC(C)([O-])C.[K+]
reactant | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
reactant | 4'-nitro-3'-chloroacetophenone | 1.5 g | [N+](=O)([O-])C1=C(C=C(C=C1)C(C)=O)Cl | C8H6ClNO3
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | Water | O | H2O
product | 4'-nitro-3'-(2-pyridylthio)acetophenone | 1.1 g | [N+](=O)([O-])C1=C(C=C(C=C1)C(C)=O)SC1=NC=CC=C1 | C13H10N2O3S
